US04151357
(E,E) and (Z,E)-N,N-diethyl-8-hydroxy-3,7-dimethyl-2,6-octadienamide
Following the same manner as in Example 5, the reaction and after-treatment were conducted by using 1.0 g of (E,E) and (Z,E)-8-hydroxy-3,7-dimethyl-2,6-octadienoic acid, 0.9 ml of triethylamine, 0.62 ml of ethyl chlorocarbonate and 0.67 ml of diethylamine in 20 ml of dichloromethane to afford 850 mg of the end product.

reactant | (Z,E)-8-hydroxy-3,7-dimethyl-2,6-octadienoic acid | OC/C(=C/CC\C(=C/C(=O)O)\C)/C | C10H16O3
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 0.62 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | diethylamine | 0.67 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (Z,E)-N,N-diethyl-8-hydroxy-3,7-dimethyl-2,6-octadienamide | 850 mg | C(C)N(C(\C=C(/CC\C=C(\CO)/C)\C)=O)CC | C14H25NO2
